US05571843
2-[4-(2-methylphenyl)-semicarbazono]indan-1,3-dione
ninhydrin, 4-(2-methylphenyl)-semicarbazide hydrochloride

reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | 4-(2-methylphenyl)-semicarbazide hydrochloride | Cl.CC1=C(C=CC=C1)NC(NN)=O
product | 2-[4-(2-methylphenyl)-semicarbazono]indan-1,3-dione | CC1=C(C=CC=C1)NC(NN=C1C(C2=CC=CC=C2C1=O)=O)=O | C17H13N3O3
